### PR TITLE
[Merged by Bors] - feat: general Ascoli theorem

### PR DESCRIPTION
**Pull request by ADedecker**
Co-authored-by: @vbeffara (port to Lean4), @tb65536 (suggested to skip the totally bounded case and go straight to compactness using Tykhonov)

This was discussed on Zulip [recently](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Arzela-Ascoli.20for.20uniform.20spaces) and [a while ago](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Montel's.20theorem).

---

- [x] depends on: #9286
- [x] depends on: #10143
- [x] depends on: #10145
- [x] depends on: #10153 
- [x] depends on: #10161 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by tb65536** [comment]
Does this allow you to golf the existing Arzela-Ascoli theorem for metric spaces?

**Comment by vbeffara** [comment]
I removed 3 lemmas that were probably duplicated by a previous merge.

**Comment by ADedecker** [comment]
Thanks Vincent! Thomas, yes that should be quite easy but let's keep that for a later PR.

Sorry to both of you, the beginning of the year has been a bit more chaotic than expected but I should have more time rather soon.

File: Mathlib/Topology/UniformSpace/Ascoli.lean [hunk 1]
```diff
@@ -0,0 +1,483 @@
...
+* The statements in this file may be a bit daunting because we prove everything for families and
+  embeddings instead of subspaces with the subspace topology. This is done because, in practice,
+  one would rarely work with `X →ᵤ[𝔖] α` directly, so we need to provide API for bringing back the
+  statements to various other types, such as `C(X, Y)` or `E →L[𝕜] F`. To counteract this, all
+  statements (as well as most proofs!) are documented quite thouroughly.
+
+* A lot of statements assume `∀ K ∈ 𝔖, EquicontinuousOn F K` instead of the more natural
+  `EquicontinuousOn F (⋃₀ 𝔖)`. This is in order to keep the most generality, as the first statement
+  is strictly weaker, but this may well be completely useless so we might want to change this in
+  the future.
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ascoli.lean:46]:
```suggestion
  is strictly weaker.
```

File: Mathlib/Topology/UniformSpace/Ascoli.lean [hunk 2]
```diff
@@ -0,0 +1,483 @@
...
+
+* In Bourbaki, the usual Arzela-Ascoli compactness theorem follows from a similar total boundedness
+  result. Here we go directly for the compactness result, which is the most useful in practice, but
+  this will be an easy addition/refactor if we ever need it.
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ascoli.lean:50]: Could you clarify what you mean by "this" here: I presume you mean establishing the intermediate total boundedness result a la Bourbaki?

File: Mathlib/Topology/UniformSpace/Ascoli.lean [hunk 3]
```diff
@@ -0,0 +1,483 @@
...
+## References
+
+* [N. Bourbaki, *General Topology, Chapter X*][bourbaki1966]
+
+## Tags
+
+equicontinuity, uniform convergence, ascoli
+-/
+
+open Set Filter Uniformity Topology TopologicalSpace Function UniformConvergence
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ascoli.lean:71]:
```suggestion
open Set Filter Uniformity Topology Function UniformConvergence
```

File: Mathlib/Topology/UniformSpace/Ascoli.lean [hunk 4]
```diff
@@ -0,0 +1,483 @@
...
+
+variable {ι X Y α β : Type*} [TopologicalSpace X] [u : UniformSpace α] [UniformSpace β]
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ascoli.lean:73]:
```suggestion
variable {ι X Y α β : Type*} [TopologicalSpace X] [UniformSpace α] [UniformSpace β]
```

**Review by ocfnash — APPROVED** [review]
This is awesome! My only regret is that I could not come up with any non-trivial suggestions while reviewing.

bors d+

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 5]
```diff
@@ -871,6 +879,15 @@ theorem t2Space_of_covering [T2Space β] (h : ⋃₀ 𝔖 = univ) : T2Space (α
     exact separated_by_continuous (uniformContinuous_eval_of_mem β 𝔖 hxs hs).continuous hx
 #align uniform_on_fun.t2_space_of_covering UniformOnFun.t2Space_of_covering
 
+/-- The restriction map `(⋃₀ 𝔖).restrict ∘ UniformOnFun.toFun 𝔖` from `α →ᵤ[𝔖] β` to `⋃₀ 𝔖 → β` is
+uniformly continuous. -/
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:883]: I agree with you to some extent, although working with beginners at LFTCM made me remember that it takes some work to be able to *read* Lean statements. I'll admit that sometimes I do so just because it takes more energy to write down the full statement without referencing the Lean objects at play.

In this particular case though, I think it looks useless in the source but not so much in the generated documentation because of the lack of type ascriptions. For example you can look at the similar [UniformOnFun.uniformContinuous_restrict](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformConvergenceTopology.html#UniformOnFun.uniformContinuous_restrict), where the docstring improves readability just by making the types explicit.

[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:883]: Although now that I say that, the statement I linked to doesn't write down the Lean term for the restriction map. Should I do the same here?

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean [hunk 6]
```diff
@@ -608,8 +614,10 @@ the topology of uniform convergence. -/
 protected theorem topologicalSpace_eq :
     UniformOnFun.topologicalSpace α β 𝔖 =
       ⨅ (s : Set α) (_ : s ∈ 𝔖), TopologicalSpace.induced
-        (UniformFun.ofFun ∘ s.restrict ∘ toFun 𝔖) (UniformFun.topologicalSpace s β) := by
-  simp only [UniformOnFun.topologicalSpace, UniformSpace.toTopologicalSpace_iInf]
+        (UniformFun.ofFun ∘ s.restrict ∘ UniformOnFun.toFun 𝔖)
+        (UniformFun.topologicalSpace s β) := by
+  simp only [UniformOnFun.topologicalSpace, UniformSpace.toTopologicalSpace_iInf,
+    UniformSpace.toTopologicalSpace_iInf, UniformSpace.toTopologicalSpace_comap]
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean:620]: Indeed, I think this is what happened. Reverted.

File: Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean]: I did that for now, let me know what you think.

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Topology/UniformSpace/UniformConvergenceTopology.lean]: What you've got is great, I don't think we need to hold up this really useful PR any more by my quibbles.

**Comment by ocfnash** [comment]
bors merge

File: Mathlib/Topology/UniformSpace/Ascoli.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Ascoli.lean:49]: Don't you want me to change this before merging? I was planning to do it tomorrow morning. I can also change the wording later if you want.

Comment (ocfnash) [reply Mathlib/Topology/UniformSpace/Ascoli.lean:49]: I decided I was splitting hairs and it wasn't worth delaying this PR any further.

Feel free to follow up with a doc string adjustment PR or not, according to your taste!
